US07112594B2
5-amino-2-(4-methylpiperazin-1-yl)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (15 g) and methylpiperazine (9.8 g), the title compound (11.1 g) was obtained. melting point: 45-46° C.

reactant | 2-chloro-5-nitrobenzonitrile | 15 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | methylpiperazine | 9.8 g | CN1CCNCC1 | C5H12N2
product | 5-amino-2-(4-methylpiperazin-1-yl)benzonitrile | 11.1 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C | C12H16N4
